US09035084B2
B2pin2 (1.0 mmol, 254 mg), benzoyl peroxide (0.02 mmol, 5 mg), ethyl 4-aminobenzoate (1 mmol, 165 mg) and acetonitrile (3 mL) were added in a 25 mL tube-type reactor, followed by the addition of tert-butyl nitrite (1.5 mmol, 154 mg). The reaction was conducted at room temperature for 4 h. The solution was concentrated after the reaction and the resultant was purified by column chromatography (eluted by petroleum ether:ethyl acetate=20:1, V:V) to give ethyl 4-(4,4,5,5 -tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate having the following structure:

reactant | B2pin2 | 1.0 mmol, 254 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | benzoyl peroxide | 0.02 mmol, 5 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | ethyl 4-aminobenzoate | 1 mmol, 165 mg | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | tert-butyl nitrite | 1.5 mmol, 154 mg | N(=O)OC(C)(C)C | C4H9NO2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | ethyl 4-(4,4,5,5 -tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 79% yield | CC1(OB(OC1(C)C)C1=CC=C(C(=O)OCC)C=C1)C | C15H21BO4
